US03948596
Preparation of 2-chloro-5-aminophenol
4.35 Moles (688 grams) of 2-chloro-5-amino anisole are introduced into 3.44 liters of hydrobromic acid (d = 1.49) to which has been added 1.38 liters of acetic acid.

reactant | 2-chloro-5-amino anisole | 4.35 Moles, 688 grams | ClC1=C(C=C(C=C1)N)OC | C7H8ClNO
reactant | hydrobromic acid | 3.44 liters | Br | BrH
solvent | acetic acid | 1.38 liters | C(C)(=O)O | C2H4O2
product | 2-chloro-5-aminophenol | ClC1=C(C=C(C=C1)N)O | C6H6ClNO
